### PR TITLE
feat(RingTheory): a homogeneous submodule is the span of its homogeneous elements

### PR DESCRIPTION
**Pull request by kckennylau**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean [hunk 1]
```diff
@@ -72,6 +72,12 @@ variable {𝒜}
 abbrev HomogeneousIdeal.toIdeal (I : HomogeneousIdeal 𝒜) : Ideal A :=
   I.toSubmodule
 
+theorem HomogeneousIdeal.span_isHomogeneousElem (I : HomogeneousIdeal 𝒜) :
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Ideal.lean]:
```suggestion
theorem HomogeneousIdeal.span_isHomogeneousElem_eq (I : HomogeneousIdeal 𝒜) :
```
And analogously for the two other results.

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 2]
```diff
@@ -56,6 +56,22 @@ theorem Submodule.IsHomogeneous.mem_iff {p : Submodule A M}
     x ∈ p ↔ ∀ i, (decompose ℳ x i : M) ∈ p :=
   AddSubmonoidClass.IsHomogeneous.mem_iff ℳ _ hp
 
+theorem Submodule.IsHomogeneous.closure_isHomogeneousElem {p : Submodule A M}
+    [DecidableEq ιM] [SetLike σM M] [AddSubmonoidClass σM M]
+    (ℳ : ιM → σM) [Decomposition ℳ] (hp : p.IsHomogeneous ℳ) :
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean]:
```suggestion
    {ℳ : ιM → σM} [Decomposition ℳ] (hp : p.IsHomogeneous ℳ) :
```

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 3]
```diff
@@ -56,6 +56,22 @@ theorem Submodule.IsHomogeneous.mem_iff {p : Submodule A M}
...
+    AddSubmonoid.closure { x | x ∈ p ∧ SetLike.IsHomogeneousElem ℳ x } = p.toAddSubmonoid := by
+  refine le_antisymm (AddSubmonoid.closure_le.mpr fun _ hx ↦ hx.1) fun x hx ↦ ?_
+  classical
+  rw [← DirectSum.sum_support_decompose ℳ x]
+  exact sum_mem fun i hi ↦ AddSubmonoid.subset_closure ⟨hp i hx, i, SetLike.coe_mem _⟩
+
+theorem Submodule.IsHomogeneous.span_isHomogeneousElem {p : Submodule A M}
+    [DecidableEq ιM] [SetLike σM M] [AddSubmonoidClass σM M]
+    (ℳ : ιM → σM) [Decomposition ℳ] (hp : p.IsHomogeneous ℳ) :
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean]:
```suggestion
    {ℳ : ιM → σM} [Decomposition ℳ] (hp : p.IsHomogeneous ℳ) :
````

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 4]
```diff
@@ -56,6 +56,22 @@ theorem Submodule.IsHomogeneous.mem_iff {p : Submodule A M}
     x ∈ p ↔ ∀ i, (decompose ℳ x i : M) ∈ p :=
   AddSubmonoidClass.IsHomogeneous.mem_iff ℳ _ hp
 
+theorem Submodule.IsHomogeneous.closure_isHomogeneousElem {p : Submodule A M}
```
Comment (mariainesdff) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean]: Could you also add `_eq` at the end in these two theorems? (I think you missed the comment above).

Comment (kckennylau) [reply Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean]: done

File: Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean [hunk 5]
```diff
@@ -56,6 +56,22 @@ theorem Submodule.IsHomogeneous.mem_iff {p : Submodule A M}
...
+    AddSubmonoid.closure { x | x ∈ p ∧ SetLike.IsHomogeneousElem ℳ x } = p.toAddSubmonoid := by
+  refine le_antisymm (AddSubmonoid.closure_le.mpr fun _ hx ↦ hx.1) fun x hx ↦ ?_
+  classical
+  rw [← DirectSum.sum_support_decompose ℳ x]
+  exact sum_mem fun i hi ↦ AddSubmonoid.subset_closure ⟨hp i hx, i, SetLike.coe_mem _⟩
+
+theorem Submodule.IsHomogeneous.span_isHomogeneousElem_eq {p : Submodule A M}
+    [DecidableEq ιM] [SetLike σM M] [AddSubmonoidClass σM M]
+    {ℳ : ιM → σM} [Decomposition ℳ] (hp : p.IsHomogeneous ℳ) :
+    .span A { x | x ∈ p ∧ SetLike.IsHomogeneousElem ℳ x } = p :=
```
Comment (alreadydone) [inline Mathlib/RingTheory/GradedAlgebra/Homogeneous/Submodule.lean:71]: Why use dot notation here but not for the other two?

**Review by alreadydone — APPROVED** [review]
LGTM
